US08791132B2
2,8,9-Trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (400 mg, 1.86 mmol) 4 mL DMF, cooled to 0° C. and sodium hydride (224 mg, 5.60 mmol) was added portionwise at the same temperature. 3-(2-methyloxiran-2-yl)pyridine (504 mg, 3.73 mmol) in DMF (1 mL) was added to the reaction mixture and allowed to stir at RT for 12 h. After complete consumption of starting material, the reaction mixture was poured in to ice water and extracted with EtOAc (3×100 mL). The combined organic layer was washed with water (3×50 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was crystallized with ether and hexane to obtain 400 mg of 2-(pyridin-3-yl)-1-(2,8,9-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol. 1H NMR (DMSO, freebase) δ (ppm): 8.59 (s, 1H), 8.42 (d, 1H), 7.73 (d, 1H), 7.31 (t, 1H), 7.1 (d, 1H), 6.73 (d, 1H), 4.11 (dd, 2H), 3.74 (s, 2H), 3.4 (m, 2H), 2.6 (m, 2H), 2.37 (s, 6H), 2.22 (s, 3H), 1.5 (s, 3H). Separation by chiral HPLC provides enantiomers II-145a-b.

reactant | 2,8,9-Trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.86 mmol, 4 mL, 400 mg | CN1CC2=C(NC=3C=CC(=C(C23)C)C)CC1 | C14H18N2
reactant | sodium hydride | 5.60 mmol, 224 mg | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 3.73 mmol, 504 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(pyridin-3-yl)-1-(2,8,9-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol | 400 mg | N1=CC(=CC=C1)C(CN1C2=C(C=3C(=C(C=CC13)C)C)CN(CC2)C)(C)O | C22H27N3O
